US06248743B1
Vanillin (100 g) is dissolved in chloroform (800 ml), and thereto is blown with stirring chlorine gas at room temperature for about one hour to give the white solid. The compressed air is blown into the mixture to remove the chlorine being dissolved therein, and the precipitated solid is collected by filtration, washed, and dried. The mother liquor is concentrated, and triturated with diethyl ether, and the precipitates are collected by filtration, washed, and dried. The former precipitated solid and the powder thus obtained are combined to give 3-chlorovanillin (115.25 g).

reactant | Vanillin | 100 g | O=CC1=CC(OC)=C(O)C=C1 | C8H8O3
reactant | chlorine | ClCl | Cl2
solvent | chloroform | 800 ml | C(Cl)(Cl)Cl | CHCl3
product | 3-chlorovanillin | 115.25 g, Yield: 94.0% | ClC1(CC(C=O)=CC=C1O)OC | C8H9ClO3
